US05847153
Step 5 Preparation of 2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl-propionic acid.
A mixture of 0.56 g (1.5 mmol) of 2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl-propanoic acid ethyl ester and 8 ml of 6N HCl is heated at 115° C. for 17 hours. The mixture is transferred to 100 ml of ice-water and extracted with two portions of ethyl acetate. The organic phase is extracted with three 50 mL portions of aqueous 5% sodium bicarbonate. The bicarbonate solution is poured over ice and acidified with concentrated HCl. The acidified aqueous mixture is extracted with three 50 mL portions of ethyl acetate and the combined organic extracts are concentrated in vacuo to yield 0.45 g of the title compound as a white solid.

reactant | 2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl-propanoic acid ethyl ester | 1.5 mmol, 0.56 g | C(C)OC(C(CC1=CC=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C19H22O5S
reactant | HCl | 6N, 8 ml | Cl | ClH
product | 2-[(4-methoxybenzenesulfonyl)methyl]-3-phenyl-propionic acid | 0.45 g | COC1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)CC1=CC=CC=C1 | C17H18O5S
